US04335054
The procedure described in Example 28 is repeated, except that 9.55 g (0.05 mol) of 2-naphthoyl chloride and 6.25 g (0.0625 mol) of ethyl acrylate are used. After a reaction time of 2 hours at 120° C., 9.9 g (0.044 mol) of ethyl β-(2-naphthyl)-acrylate are obtained, corresponding to a yield of 88% of theory; boiling point 106°-110° C./4 Pa. Analysis for C15H14O2 (molecular weight 188): calculated C 79.62%, H 6.24%, O 14.14%; found C 79.39%, H 6.49%, O 14.08%.

reactant | 2-naphthoyl chloride | 0.05 mol, 9.55 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | ethyl acrylate | 0.0625 mol, 6.25 g | C(C=C)(=O)OCC | C5H8O2
product | ethyl β-(2-naphthyl)-acrylate | 0.044 mol, 9.9 g, yield of 88% | C1=C(C=CC2=CC=CC=C12)C=CC(=O)OCC | C15H14O2
